US06696473B2
Preparation of 3-(3′-Benzyl-3,5-dimethyl-4′-oxo-4-phenyl-3′,4′-dihydro-3H-[2,5′]-bithiazolyliden-2′-ylideneamino)-4-(ethylamino)benzonitrile
To an 8 mL vial was added 3,5-dimethyl-4-phenyl-3H-thiazole-2-thione (100 mg, 0.45 mmol), methyl p-toluenesulfonate (126 mg, 0.68 mmol) and anhydrous anisole (0.5 mL). The reaction was heated to 120° C. and stirred for 3 h. The cooled reaction mixture was diluted with anhydrous MeCN (3 mL) and then treated with 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzonitrile (50 mg, 0.14 mmol) and TEA (70 μL, 0.50 mmol). The reaction mixture was warmed to 80° C. and the resulting solution was allowed to stir for 16 h. The product mixture was concentrated under reduced pressure and chromatographed (silica gel, 1:1 EtOAc/Hex) to yield the title product (48.3 mg, 64%) as a yellow solid. 1H-NMR (CDCl3): δ 7.40 (5H, m) 7.33 (2H, m), 7.25 (3H, m), 7.23 (2H, m), 6.46 (1H, d), 5.15 (2H, s), 4.28 (1H, m), 3.46 (3H, s), 2.99 (2H, m), 2.28 (3H, s), 1.01 (3H, t); MS(ESI): 538 (MH+).

reactant | 3,5-dimethyl-4-phenyl-3H-thiazole-2-thione | 0.45 mmol, 100 mg | CN1C(SC(=C1C1=CC=CC=C1)C)=S | C11H11NS2
reactant | methyl p-toluenesulfonate | 0.68 mmol, 126 mg | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-(ethylamino)benzonitrile | 0.14 mmol, 50 mg | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 3-(3′-Benzyl-3,5-dimethyl-4′-oxo-4-phenyl-3′,4′-dihydro-3H-[2,5′]-bithiazolyliden-2′-ylideneamino)-4-(ethylamino)benzonitrile | 48.3 mg, 64% | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC(=C(N1C)C1=CC=CC=C1)C)=NC=1C=C(C#N)C=CC1NCC | C30H27N5OS2
